### PR TITLE
[Merged by Bors] - feat: define the category of extremally disconnected compact Hausdorff spaces

### PR DESCRIPTION
**Pull request by dagurtomas**
Co-authored-by: Adam Topaz [topaz@ualberta.ca](mailto:topaz@ualberta.ca) @adamtopaz 
Basics of the category `Stonean` of extremally disconnected compact Hausdorff spaces. This work was done during the 2023 Copenhagen masterclass on formalisation of condensed mathematics. Numerous participants contributed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean [hunk 1]
```diff
@@ -0,0 +1,152 @@
...
+          pt := finiteCoproduct (F.obj ⟨·⟩)
+          ι := Discrete.natTrans fun ⟨a⟩ => finiteCoproduct.ι (F.obj ⟨·⟩) a }
+        isColimit := {
+          desc := fun s => finiteCoproduct.desc _ fun a => s.ι.app ⟨a⟩
+          fac := fun s ⟨a⟩ => finiteCoproduct.ι_desc _ _ _
+          uniq := fun s m hm => finiteCoproduct.hom_ext _ _ _ fun a => by
+            specialize hm ⟨a⟩
+            ext t
+            apply_fun (fun q => q t) at hm
+            exact hm }}⟩}}
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean:148]: All this stuff can be shortened using the `cocone` and `isColimit` constructions above.

File: Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean [hunk 2]
```diff
@@ -0,0 +1,152 @@
...
+  -- change { x | (Sigma.mk j) x ∈ {⟨i, u⟩ | u ∈ U}} = ∅
+  simp [h]
+
+lemma sigma_mk_preimage_image_eq_self : Sigma.mk i ⁻¹' (Sigma.mk i '' U) = U := by
+  change Sigma.mk i ⁻¹' {⟨i, u⟩ | u ∈ U} = U
+  simp
+
+-- Note: It might be possible to use Gleason for this instead
+/-- The sigma-type of extremally disconneted spaces is extremally disconnected -/
+instance instExtremallyDisconnected
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean:36]: This should go in the `ExtremallyDisconnected` file.

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+    rw [mem_closure_iff]
+    push_neg
+    refine' ⟨V, ⟨hUV.2.1, hUV.2.2.2.1, _⟩⟩
+    rw [Set.nonempty_iff_ne_empty]
+    simp only [not_not]
+    rw [← Set.disjoint_iff_inter_eq_empty, disjoint_comm]
+    exact hUV.2.2.2.2 }
+
+/-- Extremally disconnected spaces are totally disconnected. -/
+instance (X : ExtrDisc.{u}) : TotallyDisconnectedSpace X := inferInstance
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:154]: Since `inferInstance` works, this is probably not necessary.

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,177 @@
...
+/-- Extremally disconnected spaces are Hausdorff. -/
+instance (X : ExtrDisc.{u}) : T2Space X :=
+  show T2Space X.compHaus from inferInstance
+
+instance (X : ExtrDisc.{u}) : ExtremallyDisconnected X :=
+  X.2
+
+/-- Extremally disconnected spaces are totally separated. -/
+instance (X : ExtrDisc.{u}) : TotallySeparatedSpace X :=
+{ isTotallySeparated_univ := by
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:136]: We should add a suitable instance for topological spaces, and use that instance here.

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,177 @@
...
+structure ExtrDisc where
+  compHaus : CompHaus.{u}
+  [extrDisc : ExtremallyDisconnected compHaus]
+
+-- the fields of the structure don't need docstrings
+attribute [nolint docBlame] ExtrDisc.compHaus ExtrDisc.extrDisc
+
+namespace CompHaus
+
+/-- Proj implies ExtrDisc. -/
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:53]:
```suggestion
/-- Projective implies ExtrDisc. -/
```

File: Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean [hunk 6]
```diff
@@ -0,0 +1,152 @@
...
+`Mathlib/Topology/Category/CompHaus/ExplicitLimits.lean`
+-/
+section FiniteCoproducts
+
+open Limits
+
+-- Assume we have `X a → B` which are jointly surjective.
+variable {α : Type} [Fintype α] {B : ExtrDisc.{u}}
+  (X : α → ExtrDisc.{u}) (π : (a : α) → (X a ⟶ B))
+  (surj : ∀ b : B, ∃ (a : α) (x : X a), π a x = b)
```
Comment (adamtopaz) [inline Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean:79]: I don't think `surj` is needed, is it?

**Comment by dagurtomas** [comment]
I've modified everything according to Adam's suggestions

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,155 @@
...
+
+open CategoryTheory
+
+/-- `ExtrDisc` is the category of extremally disconnected spaces. -/
+structure ExtrDisc where
+  compHaus : CompHaus.{u}
+  [extrDisc : ExtremallyDisconnected compHaus]
+
+-- the fields of the structure don't need docstrings
+attribute [nolint docBlame] ExtrDisc.compHaus ExtrDisc.extrDisc
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:49]: Hmm... I'd say they do. :-)

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+
+namespace CompHaus
+
+/-- Projective implies ExtrDisc. -/
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:53]:
```suggestion
/-- `Projective` implies `ExtrDisc`. -/
```

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+  show T2Space X.compHaus from inferInstance
+
+instance (X : ExtrDisc.{u}) : ExtremallyDisconnected X :=
+  X.2
+
+/-- The functor from extremally disconnected spaces to profinite spaces. -/
+@[simps]
+def toProfinite : ExtrDisc.{u} ⥤ Profinite.{u} where
+  obj X := {
+    toCompHaus := X.compHaus,
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:138]:
```suggestion
  obj X := 
  { toCompHaus := X.compHaus,
```
Very minor...

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 10]
```diff
@@ -120,3 +141,43 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+-- This section contains helper lemmas about the sigma-type `Σ i, π i`.
+section Sigma
+
+lemma sigma_mk_preimage_image' (h : i ≠ j) : Sigma.mk j ⁻¹' (Sigma.mk i '' U) = ∅ := by
+  change Sigma.mk j ⁻¹' {⟨i, u⟩ | u ∈ U} = ∅
+  simp [h]
+
+lemma sigma_mk_preimage_image_eq_self : Sigma.mk i ⁻¹' (Sigma.mk i '' U) = U := by
+  change Sigma.mk i ⁻¹' {⟨i, u⟩ | u ∈ U} = U
+  simp
```
Comment (semorrison) [inline Mathlib/Topology/ExtremallyDisconnected.lean:154]: These should live somewhere earlier. Try `#find_home sigma_mk_preimage_image'`.

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+compact, Hausdorff and totally disconnected topological space.
+-/
+def of (X : Type _) [TopologicalSpace X] [CompactSpace X] [T2Space X]
+    [ExtremallyDisconnected X] : ExtrDisc :=
+  ⟨⟨⟨X, inferInstance⟩⟩⟩
+
+/-- The forgetful functor `ExtrDisc ⥤ CompHaus` is full. -/
+instance : Full toCompHaus where
+  preimage := fun f => f
+  witness := fun f => by simp
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:102]:
```suggestion
```

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,155 @@
...
+
+
+/-- The forgetful functor `ExtrDisc ⥤ CompHaus` is faithful. -/
+instance : Faithful toCompHaus where
+  map_injective := by
+    intro X Y a b h
+    simp only [inducedFunctor_obj, inducedFunctor_map] at h
+    exact h
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:110]:
```suggestion
instance : Faithful toCompHaus := {}
```

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+/-- Extremally disconnected spaces are a concrete category. -/
+instance : ConcreteCategory ExtrDisc where
+  forget := toCompHaus ⋙ forget _
+
+instance : CoeSort ExtrDisc.{u} (Type u) := ConcreteCategory.hasCoeToSort _
+instance {X Y : ExtrDisc.{u}} : FunLike (X ⟶ Y) X (fun _ => Y) := ConcreteCategory.funLike
+
+/-- Extremally disconnected spaces are topological spaces. -/
+instance instTopologicalSpace (X : ExtrDisc.{u}) : TopologicalSpace X :=
+  show TopologicalSpace X.compHaus from inferInstance
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:121]: I don't object to this style at all, but some people prefer to write `inferInstanceAs <| TopologicalSpace X.compHaus`.

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+  fconstructor; intro X Y f; exact f; simp
+
+/-- The functor from extremally disconnected spaces to profinite spaces is faithful. -/
+instance : Faithful toProfinite := by
+  fconstructor; intro X Y f g h; assumption
+
+/-- The functor from extremally disconnected spaces to compact Hausdorff spaces
+    factors through profinite spaces. -/
+instance : toProfinite ⋙ profiniteToCompHaus = toCompHaus :=
+  rfl
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:153]: This shouldn't be an instance!!

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+@[simps]
+def toProfinite : ExtrDisc.{u} ⥤ Profinite.{u} where
+  obj X := {
+    toCompHaus := X.compHaus,
+    IsTotallyDisconnected := show TotallyDisconnectedSpace X from inferInstance }
+  map f := f
+
+/-- The functor from extremally disconnected spaces to profinite spaces is full. -/
+instance : Full toProfinite := by
+  fconstructor; intro X Y f; exact f; simp
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:144]:
```suggestion
instance : Full toProfinite where
  preimage f := f
```
more readable!

File: Mathlib/Topology/Category/ExtrDisc/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- The functor from extremally disconnected spaces to profinite spaces is faithful. -/
+instance : Faithful toProfinite := by
+  fconstructor; intro X Y f g h; assumption
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/Basic.lean:148]:
```suggestion
instance : Faithful toProfinite := {}
```

File: Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean [hunk 17]
```diff
@@ -0,0 +1,102 @@
+/-
```
Comment (semorrison) [inline Mathlib/Topology/Category/ExtrDisc/ExplicitLimits.lean:1]: Same comment about the file name.

**Comment by jcommelin** [comment]
@dagurtomas Please click "resolve conversation" on all the conversations above that you consider done. (Unless you still want a maintainer to look/reply to a conversation.)

**Comment by dagurtomas** [comment]
Merging master and waiting for CI to build to be able to use `#find_home`

File: Mathlib/Topology/Category/Stonean/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,148 @@
...
+
+The Lean implementation: a term of type `Stonean` is a pair, considering of
+a term of type `CompHaus` (i.e. a compact Hausdorff topological space) plus
+a proof that the space is extremally disconnected.
+This is equivalent to the assertion that the term is projective in `CompHaus`,
+in the sense of category theory (i.e., such that morphisms out of the object
+can be lifted along epimorphisms).
+
+This file defines the type of all Stonean spaces, gives it the
+structure of a large category, and proves some basic observations about this
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Stonean/Basic.lean:28]: This mostly repeats line 17. I think you can remove this paragraph (and maybe add the "basic observations about ..." bit to the paragraph on L17.

File: Mathlib/Topology/Category/Stonean/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,148 @@
...
+    let f' : X ⟶ B' := ⟨f, hf⟩
+    let g' : A' ⟶ B' := ⟨g,hg⟩
+    have : Epi g' := by
+      rw [CompHaus.epi_iff_surjective]
+      assumption
+    obtain ⟨h,hh⟩ := Projective.factors f' g'
+    refine ⟨h,h.2,?_⟩
+    ext t
+    apply_fun (fun e => e t) at hh
+    exact hh
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Stonean/Basic.lean:75]: I think this should be factored out into a separate instance. In Lean 4 it is not a problem to have cycles in the type class hierarchy. So for `X : CompHaus` I think we should have a cycle `extrDisc -> Projective -> extrDisc`.

**Comment by jcommelin** [comment]
Two comments, but apart from that, LGTM

**Comment by dagurtomas** [comment]
> Two comments, but apart from that, LGTM

Done

**Comment by dagurtomas** [comment]
Hmm, CI canceled the check "Detect changes to header SHAs / Add annotations (pull_request)". What does that mean?

**Comment by RemyDegenne** [comment]
That check broke following a change in the way we do those headers. Please merge master. That should fix it.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
